US05238953
2-Fluoro-5-[[4-(1H-imidazol-1-yl)phenyl]methyl]-5,6,7,8,9,10-hexahydrocyclohept[b]indole-7-acetic acid
A solution of 122 mg of 2-fluoro- 5,6,7,8,9,10-hexahydrocyclohept[b]indole-7-acetic acid in 20 ml of dry DMF is cooled at 0° C., and treated with 102 mg of 55% NaH. The reaction mixture is stirred for 60 minutes at 0° C., then 160 mg of 1-[4-(chloro-methyl)phenyl]-1H-imidazole hydrochloride are added portionwise at 0° C. After stirring at room temperature for 16 hours the mixture is poured into water and washed with methylene chloride. The aqueous solution is neutralized with diluited HCl and extracted with methylene chloride. The organic layer is dried over sodium sulfate and evaporated to dryness. The residue, washed with acetone and dried, yields 116 mg of the title compound m.p. 237° C.

reactant | 2-fluoro- 5,6,7,8,9,10-hexahydrocyclohept[b]indole-7-acetic acid | 122 mg | FC=1C=C2C3=C(NC2=CC1)CC(CCC3)CC(=O)O | C15H16FNO2
reactant | NaH | 102 mg | [H-].[Na+]
reactant | 1-[4-(chloro-methyl)phenyl]-1H-imidazole hydrochloride | 160 mg | Cl.ClCC1=CC=C(C=C1)N1C=NC=C1
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-Fluoro-5-[[4-(1H-imidazol-1-yl)phenyl]methyl]-5,6,7,8,9,10-hexahydrocyclohept[b]indole-7-acetic acid | 116 mg | FC=1C=C2C3=C(N(C2=CC1)CC1=CC=C(C=C1)N1C=NC=C1)CC(CCC3)CC(=O)O | C25H24FN3O2
